US03988363
4-tert.-Octyl-2,6-dimethyl-3-hydroxyphenylacetic acid
This compound was made in a similar manner to the method disclosed in Example 5 by hydrolyzing 4-tert.-octyl-2,6-dimethyl-3-hydroxyphenylacetonitrile with sodium hydroxide in aqueous ethylene glycol. After crystallization from toluene 4-tert.-octyl-2,6-dimethyl-3-hydroxyphenylacetic acid melted at 157° to 159° C.

reactant | 4-tert.-octyl-2,6-dimethyl-3-hydroxyphenylacetonitrile | C(C)(C)(CC(C)(C)C)C1=C(C(=C(C(=C1)C)CC#N)C)O | C18H27NO
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethylene glycol | C(CO)O | C2H6O2
product | 4-tert.-Octyl-2,6-dimethyl-3-hydroxyphenylacetic acid | C(C)(C)(CC(C)(C)C)C1=C(C(=C(C(=C1)C)CC(=O)O)C)O | C18H28O3
